US05233035
To 20 ml of dimethylformamide were dissolved 3.0 g (6.16 mmol) of p-methoxybenzyl 7β-phenylacetamido-3-chloromethyl-3-cephem-4carboxylate and 1.70 g (6.48 mmol) of triphenylphosphine, and 0.97 g (6.47 mmol) of sodium iodide was added therein, and the stirring was effected for 2 hrs. at the room temperature. The reaction solution was concentrated and dried under the reduced pressure and 10 ml of methylene chloride was added therein. To this solution were added 767 mg (6.78 mmol) of 3-formylisothiazole and 10 ml of saturated sodium hydrogen carbonate aqueous solution, and the stirring was effected for 5.5 hrs. at the room temperature. The layer of methylene chloride was separated, and the aqueous layer was extracted with methylene chloride. The layers of methylene chloride were combined, washed with saturated saline solution; and dried over anhydrous magnesium sulfate, and then, the solvent was evaporated off to give 6.8 g of a caramel. This caramel was column chromatographed on silica gel by eluting with chloroform-ethyl acetate to give 2.48 g of p-methoxybenzyl 7β-phenylacetamido-3-[2-(isothiazol-3-yl)vinyl]-3-cephem-4-carboxylate.

reactant | p-methoxybenzyl 7β-phenylacetamido-3-chloromethyl-3-cephem-4carboxylate | 6.16 mmol, 3.0 g | C1(=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CCl)C(=O)OCC2=CC=C(C=C2)OC)C1=O | C24H23ClN2O5S
reactant | triphenylphosphine | 6.48 mmol, 1.70 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium iodide | 6.47 mmol, 0.97 g | [I-].[Na+]
reactant | 3-formylisothiazole | 6.78 mmol, 767 mg | C(=O)C1=NSC=C1 | C4H3NOS
reactant | sodium hydrogen carbonate | 10 ml | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | p-methoxybenzyl 7β-phenylacetamido-3-[2-(isothiazol-3-yl)vinyl]-3-cephem-4-carboxylate | 2.48 g | C1(=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C=CC2=NSC=C2)C(=O)OCC2=CC=C(C=C2)OC)C1=O | C28H25N3O5S2
